US06133258
The reaction procedure of Example 57 was followed except that 190 mg of 2-chloronicotinoyl chloride, 83 mg of ammonium thiocyanate and 271 mg of 4-(benzylamino)benzotrifluoride were used. As a result, 252 mg of 2-[N-benzyl-N-(4-trifluoromethylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-chloronicotinoyl chloride | 190 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 83 mg | [S-]C#N.[NH4+]
reactant | 4-(benzylamino)benzotrifluoride | 271 mg | C(C1=CC=CC=C1)NC1=CC=C(C=C1)C(F)(F)F | C14H12F3N
product | 2-[N-benzyl-N-(4-trifluoromethylphenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 252 mg | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C(F)(F)F)C=1SC2=C(C(N1)=O)C=CC=N2 | C21H14F3N3OS
